US09447084B2
1-[(4-[5-[3-Chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]imidazolidin-4-one
Into a 100-mL round-bottom flask, was placed 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid (900 mg, 1.99 mmol, 1.00 equiv), N,N-dimethylformamide (10 mL), HATU (1.1 g, 2.89 mmol, 1.45 equiv), DIEA (770 mg, 5.96 mmol, 2.99 equiv), imidazolidin-4-one hydrochloride (489 mg, 3.99 mmol, 2.00 equiv). The resulting solution was stirred for 2 h at rt. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 3×10 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×20 mL of brine. The resulting organic phase was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/30-1/10). This resulted in 600 mg (58%) of 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]imidazolidin-4-one as a light yellow solid.

reactant | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid | 1.99 mmol, 900 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C19H12ClF6NO3
reactant | HATU | 2.89 mmol, 1.1 g, 1.45 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 5.96 mmol, 770 mg, 2.99 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | imidazolidin-4-one hydrochloride | 3.99 mmol, 489 mg, 2.00 equiv | Cl.N1CNC(C1)=O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[(4-[5-[3-Chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]imidazolidin-4-one | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CNC(C1)=O)C)C(F)(F)F | C22H16ClF6N3O3
